US07858632B2
A mixture of N*2*-Ethyl-5-(2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (0.30 g, 0.99 mmol), methanesulfonic anhydride (1.0 g, 5.96 mmol) and trifluoromethanesulfonic acid (0.37 g, 2.48 mmol) was heated at 70° C. for two hrs. The hot reaction mixture was poured into ice water and basified with sat. NaHCO3 solution. The aqueous solution was then extracted into methylene chloride. The combined organic extracts was washed with H2O, dried over Na2SO4, filtered and concentrated. Flash chromatography on silica (1% MeOH in methylene chloride with 1% NH4OH) gave N*2*-Ethyl-5-(2-isopropyl-5-methanesulfonyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (87 mg, 23% ) as a solid. (M+H)=381.

reactant | N*2*-Ethyl-5-(2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 0.99 mmol, 0.30 g | C(C)NC1=NC=C(C(=N1)N)OC1=C(C=C(C=C1)OC)C(C)C | C16H22N4O2
reactant | methanesulfonic anhydride | 5.96 mmol, 1.0 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | trifluoromethanesulfonic acid | 2.48 mmol, 0.37 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N*2*-Ethyl-5-(2-isopropyl-5-methanesulfonyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 87 mg, 23% | C(C)NC1=NC=C(C(=N1)N)OC1=C(C=C(C(=C1)S(=O)(=O)C)OC)C(C)C | C17H24N4O4S
